US06924276B2
A mixture of 3-methoxy-thiophene-2,5-dicarboxylic acid (0.382 g), benzylamine (0.41 mL), N,N′-carboxyl≈diimidazole (0.66 g), and DMF was heated at 60° C. to yield 0.39 g of 3-methoxy-thiophene-2,5-dicarboxylic acid bis benzylamide; MI-APCI+ 381.1; Elem. Anal. (C21H20N2O3S); Calc'd: C, 66.30; H, 5.30; N, 7.36. Found: C, 66.52; H, 5.06; N, 7.41.

reactant | 3-methoxy-thiophene-2,5-dicarboxylic acid | 0.382 g | COC1=C(SC(=C1)C(=O)O)C(=O)O | C7H6O5S
reactant | benzylamine | 0.41 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-methoxy-thiophene-2,5-dicarboxylic acid bis benzylamide | 0.39 g | C(C1=CC=CC=C1)N(C(=O)C=1SC(=CC1OC)C(=O)O)CC1=CC=CC=C1 | C21H19NO4S
